US07763731B2
4-Methoxy-2-nitro-1-phenylsulfanyl-benzene
A solution of 1-Chloro-4-methoxy-2-nitro-benzene (3.75 g, 20.0 mmol) was reacted with sodium thiophenolate (3.96 g, 30.0 mmol) at 70° C. for 48 h following the procedure in Example 1e giving the title compound as a yellow oil after silica gel column chromatography eluting with 25% EtOAc/hexane (2.70 g, 54%).

reactant | 1-Chloro-4-methoxy-2-nitro-benzene | 20.0 mmol, 3.75 g | ClC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6ClNO3
reactant | sodium thiophenolate | 30.0 mmol, 3.96 g | C1(=CC=CC=C1)[S-].[Na+]
product | 4-Methoxy-2-nitro-1-phenylsulfanyl-benzene | COC1=CC(=C(C=C1)SC1=CC=CC=C1)[N+](=O)[O-] | C13H11NO3S
